US08039450B2
To a solution of 2-bromo-5-tert-butyldimethylsiloxybenzylalcohol (36.9 g, 116 mmol) and diisopropylethylamine (26.0 mL, 150 mmol) in dichloromethane (300 mL) was added chloromethyl methyl ether (11.0 mL, 145 mmol), and the mixture was stirred at room temperature for overnight. Water was added, and the mixture was extracted with chloroform. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (96:4 hexane/ethyl acetate) to give 1-bromo-4-tert-butyldimethylsiloxy-2-methoxymethoxymethylbenzene (39.3 g, 94%).

reactant | 2-bromo-5-tert-butyldimethylsiloxybenzylalcohol | 116 mmol, 36.9 g | BrC1=C(CO)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C13H21BrO2Si
reactant | diisopropylethylamine | 150 mmol, 26.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 145 mmol, 11.0 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1-bromo-4-tert-butyldimethylsiloxy-2-methoxymethoxymethylbenzene | 39.3 g, 94% | BrC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)COCOC | C15H25BrO3Si
